US06818644B1
b. 9-[4-(4-biphenyl-3-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
A suspension of 0.2 g (0.643 mmol) of 1-biphenyl-3-yl-piperazine-dihydrochloride, 0.256 g (0.6 mmol) of 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide and 0.1 g potassium carbonate in 20 ml of acetonitrile and 0.1 ml of water is stirred for 24 hours at 60° C. The reaction mixture is poured onto water, extracted with ethyl acetate and dried over sodium sulphate. Purification is by column chromatography on silica gel (eluant: dichloromethane/ethanol=30:1).

reactant | 1-biphenyl-3-yl-piperazine-dihydrochloride | 0.643 mmol, 0.2 g | Cl.Cl.C1(=CC(=CC=C1)N1CCNCC1)C1=CC=CC=C1
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | 0.6 mmol, 0.256 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 0.1 ml | O | H2O
product | 9-[4-(4-biphenyl-3-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C=1C=C(C=CC1)C1=CC=CC=C1)(F)F | C36H36F3N3O
